US06921821B2
4-Hydroxy-6-methoxy-1-methyl-1H-quinolin-2-one
To a mixture of N-methyl-p-anisidine (2.8 g, 20 mmol) and malonic acid (4.3 g, 40 mmol) was added POC13 (17 mL). After heating at 90° C. for 1.5 hr, the reaction mixture was poured over ice and basified with 6N NaOH to a pH of 14. The solution was then filtered and the filtrate was acidified with 6N HCl to pH 3. The precipitate was filtered and dried to afford a brown solid (1.8 g, 50%). 1H NMR (300 MHz, MeODd4) 8 3.65 (3H, s), 3.86 (3H, s), 5.97 (1H, s), 7.28 (1H, dd, J=2.8, 9.3 Hz), 7.49 (2H, d, J=9.3 Hz).

reactant | N-methyl-p-anisidine | 20 mmol, 2.8 g | CNC1=CC=C(OC)C=C1 | C8H11NO
reactant | malonic acid | 40 mmol, 4.3 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | NaOH | 6N | [OH-].[Na+]
product | 4-Hydroxy-6-methoxy-1-methyl-1H-quinolin-2-one | 1.8 g, 50% | OC1=CC(N(C2=CC=C(C=C12)OC)C)=O | C11H11NO3
